US06514974B2
1-(4-Methylanilino)-4-(4-pyridylmethyl)phthalazine
A mixture of 0.384 g (1.5 mmol) 1-chloro-4-(4-pyridylmethyl)phthalazine and 0.482 g (4.5 mmol) p-toluidine is stirred for 1.5 h at 90° C. under a nitrogen atmosphere. The reaction mixture is then distributed between 30 ml acetate and 20% aqueous potassium carbonate solution. The organic phase washed with water and dried over anhydrous sodium sulfate is evaporated and the residue purified on silica gel by flash chromatography using acetate/methanol mixtures (50:1 to 9:1). Title compound is obtained after crystallization of the product-containing fractions from acetonitrile and drying under HV; m.p. 152-153° C.; ESI-MS: (M+H)+=327.

reactant | 1-chloro-4-(4-pyridylmethyl)phthalazine | 1.5 mmol, 0.384 g | ClC1=NN=C(C2=CC=CC=C12)CC1=CC=NC=C1 | C14H10ClN3
reactant | p-toluidine | 4.5 mmol, 0.482 g | NC1=CC=C(C=C1)C | C7H9N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetate | 30 ml | C(C)(=O)[O-]
product | 1-(4-Methylanilino)-4-(4-pyridylmethyl)phthalazine | CC1=CC=C(NC2=NN=C(C3=CC=CC=C23)CC2=CC=NC=C2)C=C1 | C21H18N4
